US06747023B1
Ethyl 3-(pyridin-4-yl)-1,2,4-triazin-6-carboxylate (200 mg) was dissolved in a mixed solvent of tetrahydrofuran (5 ml) and methanol (5 ml) at room temperature. A 1N aqueous solution (1.00 ml) of sodium hydroxide was added to the reaction mixture in one portion. After stirring for 5 minutes, the reaction mixture was distilled under reduced pressure to remove tetrahydrofuran and methanol, followed by neutralization with 1N hydrochloric acid. The reaction mixture was concentrated to dryness, whereby 3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylic acid was obtained as a crudely purified product.

reactant | Ethyl 3-(pyridin-4-yl)-1,2,4-triazin-6-carboxylate | 200 mg | N1=CC=C(C=C1)C=1N=NC(=CN1)C(=O)OCC | C11H10N4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylic acid | N1=CC=C(C=C1)C=1N=NC(=CN1)C(=O)O | C9H6N4O2
